US08258130B2
A suspension of NaH (1.06 g, 26.6 mmol, 60% in mineral oil) in DMF (15 mL) at 0° C. is treated with 5-methanesulfonyl-3-methyl-1H-indole (370 mg, 1.77 mmol) and stirred at 0° C. for 1 h. The mixture is treated with HOSA (1 g, 8.85 mmol) portion wise and warmed to rt overnight. The mixture is then poured over ice, and extracted with EtOAc (3×100 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo to afford 5-methanesulfonyl-3-methyl-indol-1-ylamine, which is used in the next step without further purification.

reactant | NaH | 26.6 mmol, 1.06 g | [H-].[Na+]
reactant | 5-methanesulfonyl-3-methyl-1H-indole | 1.77 mmol, 370 mg | CS(=O)(=O)C=1C=C2C(=CNC2=CC1)C | C10H11NO2S
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-methanesulfonyl-3-methyl-indol-1-ylamine | CS(=O)(=O)C=1C=C2C(=CN(C2=CC1)N)C | C10H12N2O2S
